US07666888B2
N,N-Diethyl-5-phenylisoxazole-4-carboxamide
The title compound was prepared from 5-(phenyl)isoxazole-4-carboxylic acid (9.5 mg, 0.050 mmol) and diethylamine (4.4 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method A to give a solid (4.6 mg). MS (pos) m/z 245.2 (M+1).

reactant | 5-(phenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 9.5 mg | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)O | C10H7NO3
reactant | diethylamine | 0.060 mmol, 4.4 mg | C(C)NCC | C4H11N
product | N,N-Diethyl-5-phenylisoxazole-4-carboxamide | C(C)N(C(=O)C=1C=NOC1C1=CC=CC=C1)CC | C14H16N2O2
